US07157447B2
To a mixture of 2-bromo-5-fluorophenol (10 g, 50.8 mmol) and iodomethane (11.2 g, 78.7 mmol) in dimethylformamide (100 mL) was added potassium carbonate (10.9 g, 79 mmol) and the mixture stirred at room temperature for 3 hrs. The mixture was diluted with water (100 mL) and extracted with ether (50 mL×3). The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain 11.3 g of 1-bromo-4-fluoro-2-methoxybenzene as an amber colored oil.

reactant | 2-bromo-5-fluorophenol | 50.8 mmol, 10 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | iodomethane | 78.7 mmol, 11.2 g | IC | CH3I
reactant | potassium carbonate | 79 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 1-bromo-4-fluoro-2-methoxybenzene | 11.3 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
